US06559173B1
3-[(2-Oxo-1,2-dihydro-indol-3-ylidenemethyl)-amino]-1H-pyrazole-4-carboxylic acid ethyl ester
The named compound is prepared by substituting 3-amino-1H-pyrazole-4-carboxylic acid ethyl ester for 3-aminopyrazole in the reaction of Example 1. Specifically, E & Z-3-[(hydroxy)-methylene]-1,3-dihydro-indol-2-one (0.100 gms.) is reacted with 0.2001 gms. of 3-amino-1H-pyrazole-4-carboxylic acid ethyl ester by refluxing in tetrahydrofuran (2.5 mL).

reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
reactant | Z-3-[(hydroxy)-methylene]-1,3-dihydro-indol-2-one | 0.100 gms | O\C=C\1/C(NC2=CC=CC=C12)=O | C9H7NO2
reactant | 3-amino-1H-pyrazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NNC1)N | C6H9N3O2
solvent | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
product | 3-[(2-Oxo-1,2-dihydro-indol-3-ylidenemethyl)-amino]-1H-pyrazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NNC1)NC=C1C(NC2=CC=CC=C12)=O | C15H14N4O3
